US09284323B2
To a solution of (R)-2-(1-chloro-3-methylnaphthalen-2-yl)-2-hydroxyethyl 4-methylbenzenesulfonate (1.38 g, 3.54 mmol) in THF (39 mL) at 0° C. was added potassium tert-butoxide (3.90 mL of 1.0 M solution in THF, 3.90 mmol). After stirring for 1 h, the reaction mixture was quenched with saturated aqueous NH4Cl, and then diluted with EtOAc. The organic phase was washed with water and brine, dried over Na2SO4, filtered and concentrated and purified by flash column chromatography (silica gel, 0 to 20% ethyl acetate/hexanes) to give (R)-2-(1-chloro-3-methylnaphthalen-2-yl)oxirane. 1H-NMR: 400 MHz, (CDCl3) δ 8.26 (d, J=8.4 Hz, 1H), 7.74 (d, J=7.6 Hz, 1H), 7.57-7.48 (m, 3H), 4.13 (t, J=3.6 Hz, 1H), 3.34 (t, J=5.6 Hz, 1H), 2.97 (dd, J=5.2, 2.8 Hz, 1H), 2.64 (s, 3H).

reactant | (R)-2-(1-chloro-3-methylnaphthalen-2-yl)-2-hydroxyethyl 4-methylbenzenesulfonate | 3.54 mmol, 1.38 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](O)C1=C(C2=CC=CC=C2C=C1C)Cl | C20H19ClO4S
reactant | potassium tert-butoxide | 3.90 mmol, 1.0 M, 3.90 mL | CC(C)([O-])C.[K+]
solvent | THF | 39 mL | C1CCOC1 | C4H8O
product | (R)-2-(1-chloro-3-methylnaphthalen-2-yl)oxirane | ClC1=C(C(=CC2=CC=CC=C12)C)[C@H]1OC1 | C13H11ClO
